US04602029
Preparation of 1-Methyl-3-(trichloromethylthio)hydantoin
A mixture of 11.4 g (0.1 mole) 1-methylhydantoin, 1.2 g Aliquat® 336 and 19.5 g (0.1 mole) trichloromethylsulfenyl chloride in 100 ml methylene chloride was stirred vigorously and cooled in an ice bath. To that mixture, 25 g of 20% pre-cooled aqueous sodium hydroxide was added at once; the temperature of the reaction mixture increased from 5° C. to 21° C. Stirring was continued; the ice bath was removed after 5 minutes. The methylene chloride layer was washed with water, dried over magnesium sulfate and stripped to give 24 g of sticky solids. Crystallization from toluene with charcoal treatment gave 8.4 g of the above-identified product, as a white solid, melting point 110°-112° C.

reactant | 1-methylhydantoin | 0.1 mole, 11.4 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
reactant | trichloromethylsulfenyl chloride | 0.1 mole, 19.5 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | Aliquat® 336 | 1.2 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-3-(trichloromethylthio)hydantoin | 24 g | CN1C(=O)N(C(=O)C1)SC(Cl)(Cl)Cl | C5H5Cl3N2O2S
